US09120749B2
1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (256 mg, 0.90 mmol) was reacted with trans-4-((dimethylamino)methyl)cyclohexanamine dihydrochloride (320 mg, 1.40 mmol) to afford the desired product (149 mg, 70%) as a light orange solid. ESI MS m/z 404 [C20H26BrN3O+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 0.90 mmol, 256 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | trans-4-((dimethylamino)methyl)cyclohexanamine dihydrochloride | 1.40 mmol, 320 mg | Cl.Cl.CN(C)C[C@@H]1CC[C@H](CC1)N
product | 1-(6-bromo-4-((trans-4-((dimethylamino)methyl)cyclohexyl)amino)quinolin-3-yl)ethanone | 149 mg, 70% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN(C)C | C20H26BrN3O
